US09422279B2
To (2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)pyridin-3-yl)methanol (408 mg, 1.59 mmol) in DCM (5 mL) was added SOCl2 (1.5 mL) at RT. The reaction mixture was stirred at RT for 4 h and concentrated to dryness. The crude solid was suspended in toluene and concentrated to dryness. The process was repeated three times and dried under vacuum to give 3-(chloromethyl)-2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)pyridine hydrochloride (498 mg) as an off-white solid, which was used for next step without further purification

reactant | (2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)pyridin-3-yl)methanol | 1.59 mmol, 408 mg | FC(CN1N=CC=C1C1=NC=CC=C1CO)(F)F | C11H10F3N3O
reactant | SOCl2 | 1.5 mL | O=S(Cl)Cl | Cl2OS
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(chloromethyl)-2-(1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)pyridine hydrochloride | 498 mg | Cl.ClCC=1C(=NC=CC1)C1=CC=NN1CC(F)(F)F | InChI=1S/C11H9ClF3N3.ClH/c12-6-8-2-1-4-16-10(8)9-3-5-17-18(9)7-11(13,14)15;/h1-5H,6-7H2;1H
